US05707690
2-Hydroxy-4-(2-hydroxy-3-phenoxypropyloxy)-5-(1,1-dimethylpropyl)benzophenone
A mixture of 10 g (35 mmol) of 2,4-dihydroxy-5-(1,1-dimethylpropyl)benzophenone, 5.8 g (38 mmol) of phenyl glycidyl ether, 1.3 g (3.5 mmol) of ethyltriphenylphosphonium bromide in 30 ml of xylene is stirred at 135° C. for 3 h. The reaction mixture is cooled and then filtered over Prolith rapid bleaching earth. The residue which remains after concentrating by evaporation is distilled in a bulb tube (250° C./0.1 mbar). 10.5 g (69%) of the compound are obtained as a viscous yellow liquid.

reactant | 2,4-dihydroxy-5-(1,1-dimethylpropyl)benzophenone | 35 mmol, 10 g | OC1=C(C(=O)C2=CC=CC=C2)C=C(C(=C1)O)C(CC)(C)C | C18H20O3
reactant | phenyl glycidyl ether | 38 mmol, 5.8 g | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
catalyst | ethyltriphenylphosphonium bromide | 3.5 mmol, 1.3 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Hydroxy-4-(2-hydroxy-3-phenoxypropyloxy)-5-(1,1-dimethylpropyl)benzophenone | 10.5 g, 69% | OC1=C(C(=O)C2=CC=CC=C2)C=C(C(=C1)OCC(COC1=CC=CC=C1)O)C(CC)(C)C | C27H30O5
